US04470989
1.8 2-Bromomethyl-1,4-benzodioxane
0.11 mole of phosphorus tribromide in 500 ml of tetrachloroethane was slowly added to 0.3 mole of 2-hydroxymethyl-1,4-benzodioxane and the mixture was warmed at 80°-90° C. for 2 hours. After the mixture had been cooled, it was poured into water, the organic layer was separated off, washed with dilute sodium hydroxide solution and water, dried and concentrated and the residue was distilled. Boiling point: 102°-103° C. (1.3 mbar).

reactant | phosphorus tribromide | 0.11 mole | P(Br)(Br)Br | Br3P
reactant | 2-hydroxymethyl-1,4-benzodioxane | 0.3 mole | OCC1COC2=C(O1)C=CC=C2 | C9H10O3
reactant | water | O | H2O
solvent | tetrachloroethane | 500 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 2-Bromomethyl-1,4-benzodioxane | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
